US06458810B1
A solution of 3-(4-amino-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine (1 g, 3.5 mmol) and p-toluenesulfonic acid (0.33 g, 1.8 mmol) in methanol (10 mL) is heated at reflux for 5 hours and the solvent is then removed in vacuo to give 4-amino-2-(5-hydroxy-2,6-dioxopiperid-3-yl)isoindoline-1,3-dione which can be further purified by column chromatography.

reactant | 3-(4-amino-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | 3.5 mmol, 1 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(C(C1)OC(C)=O)=O)=O)=O | C15H13N3O6
reactant | p-toluenesulfonic acid | 1.8 mmol, 0.33 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 10 mL | CO | CH4O
product | 4-amino-2-(5-hydroxy-2,6-dioxopiperid-3-yl)isoindoline-1,3-dione | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(C(C1)O)=O)=O)=O | C13H11N3O5
